US06664291B2
5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride
To cooled chlorosulfonic acid (2.0 mL) at 0° C. was added 4-(4-methoxy-phenoxy)-3,5-dichloro-nitrobenzene (700 mg, 2.2 mmol) in several portions. The resulting mixture was stirred at 0° C. for 5 min, then at RT for 2.5 h. The solution was added dropwise to ice water (40 mL) and the product was extracted with EtOAc (3×50 mL). The combined organic extracts were dried and concentrated to yield the title compound of Step A (920 mg) as a crude product which was used in the next step without purification. MS (APCl−) Calc.: 410.9, Found: 392.1 (M−1-Cl+OH, sulfonic acid).

reactant | chlorosulfonic acid | 2.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | 4-(4-methoxy-phenoxy)-3,5-dichloro-nitrobenzene | 2.2 mmol, 700 mg | COC1=CC=C(OC2=C(C=C(C=C2Cl)[N+](=O)[O-])Cl)C=C1 | C13H9Cl2NO4
product | 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-benzenesulfonyl chloride | 920 mg | ClC1=C(OC=2C=CC(=C(C2)S(=O)(=O)Cl)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C13H8Cl3NO6S
